US09403835B2
Intermediate C1: 6,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester
A mixture of 3-amino-2,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-5-carboxylic acid tert-butyl ester (1 g; 4.46 mmol; 1 eq.) and (3E)-4-hydroxy-3-methylbut-3-en-2-one (prepared according to J. Het. Chem. 1980, 17(1), 33-37) (0.6 g; 4.91 mmol; 1.1 eq.) in AcOH (5 mL) was stirred at room temperature for 18 hours then concentrated in vacuo. The residue was partitioned between 1M NaOH and DCM, the organic layer was dried over magnesium sulfate and concentrated in vacuo. The resulting oil was triturated in Et2O, the precipitate filtered off and the solution concentrated in vacuo. The residue was purified by SFC (column: Chiralpak IC, eluent 25% MeOH) to afford successively the title compound (140 mg, 11%) as a white solid and Intermediate C2. 1H NMR (CDCl3) δ 8.33 (s, 1H), 4.72-4.62 (m, 4H), 2.54 (d, J=3.1 Hz, 3H), 2.29 (d, J=0.7 Hz, 3H), 1.52 (d, J=3.3 Hz, 9H). HPLC (max plot) 87.3%; Rt 3.27 min. UPLC/MS: (MS+) 289.1 ([M+H]+).

reactant | 3-amino-2,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-5-carboxylic acid tert-butyl ester | 4.46 mmol, 1 g, 1 eq. | C(C)(C)(C)OC(=O)N1CC2=NNC(=C2C1)N | C10H16N4O2
reactant | (3E)-4-hydroxy-3-methylbut-3-en-2-one | 4.91 mmol, 0.6 g, 1.1 eq. | O/C=C(/C(C)=O)\C | C5H8O2
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
product | 6,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester | 140 mg, 11% | C(C)(C)(C)OC(=O)N1CC=2C(=C3N=CC(=C(N3N2)C)C)C1 | C15H20N4O2
